US07737166B2
3-Fluoro-2-methoxy-5-methylaniline (I-26)
5% Palladium-carbon (wet, 100 mg) was added to a methanol (5 ml) solution of 1-fluoro-2-methoxy-5-methyl-3-nitrobenzene (I-25) (250 mg, 1.35 mmol), followed by stirring under hydrogen atmosphere for 30 minutes. After filtration and concentration under reduced pressure, the resulting residue was subjected to column chromatography, and the eluate with n-hexane:ethyl acetate (9:1) was concentrated under reduced pressure to obtain the entitled compound (170 mg, 81%) as a yellow oily substance.

reactant | 1-fluoro-2-methoxy-5-methyl-3-nitrobenzene | 1.35 mmol, 250 mg | FC1=C(C(=CC(=C1)C)[N+](=O)[O-])OC | C8H8FNO3
catalyst | Palladium-carbon | 100 mg | [C].[Pd]
solvent | methanol | 5 ml | CO | CH4O
product | 3-Fluoro-2-methoxy-5-methylaniline | 170 mg, 81% | FC=1C(=C(N)C=C(C1)C)OC | C8H10FNO
